Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CC(C)(C)OC(=O)[N:1]1[CH2:2][CH2:3][N:4]([C:5]([c:6]2[cH:7][c:8]([CH3:9])[n:10][n:11]2-[c:12]2[cH:17][cH:16][cH:15][cH:14][cH:13]2)=[O:18])[CH2:19][CH2:20]1>>[NH:1]1[CH2:2][CH2:3][N:4]([C:5]([c:6]2[cH:7][c:8]([CH3:9])[n:10][n:11]2-[c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)=[O:18])[CH2:19][CH2:20]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][CH2:3][N:4]([C:5]([c:6]2[cH:7][c:8]([CH3:9])[n:10][n:11]2-[c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)=[O:18])[CH2:19][CH2:20]1.[H+:301]>>[NH:1]1[CH2:2][CH2:3][N:4]([C:5]([c:6]2[cH:7][c:8]([CH3:9])[n:10][n:11]2-[c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)=[O:18])[CH2:19][CH2:20]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][C:2]([CH2:3][CH3:4])=[O:5].[CH3:6][CH2:7][N:8]([CH2:9][CH3:10])[CH2:11][CH2:12][NH:13][C:14](=[O:15])[c:16]1[cH:17][c:18]([Cl:19])[c:20]([NH2:21])[cH:22][c:23]1[OH:24]>>[CH2:1]([C:2]([CH2:3][CH3:4])=[O:5])[O:24][c:23]1[c:16]([C:14]([NH:13][CH2:12][CH2:11][N:8]([CH2:7][CH3:6])[CH2:9][CH3:10])=[O:15])[cH:17][c:18]([Cl:19])[c:20]([NH2:21])[cH:22]1,[CH3:6][CH2:7][N:8]([CH2:9][CH3:10])[CH2:11][CH2:12][NH:13][C:14](=[O:15])[c:16]1[cH:17][c:18]([Cl:19])[c:20]([NH2:21])[cH:22][c:23]1[OH:24].[Br:101][CH2:1][C:2]([CH2:3][CH3:4])=[O:5].[H-:301].[Na+]>>[CH2:1]([C:2]([CH2:3][CH3:4])=[O:5])[O:24][c:23]1[c:16]([C:14]([NH:13][CH2:12][CH2:11][N:8]([CH2:7][CH3:6])[CH2:9][CH3:10])=[O:15])[cH:17][c:18]([Cl:19])[c:20]([NH2:21])[cH:22]1,SN2_alcohol(thiol),"[(301, 24.1), ([24.1, 24], 24), (24, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][C:2]([O:3][C:4]([CH3:5])([CH3:6])[CH3:7])=[O:8].[CH3:9][C:10]([CH3:11])([CH3:12])[O:13][C:14](=[O:15])[c:16]1[cH:17][cH:18][cH:19][c:20]([CH2:21][CH2:22][NH2:23])[cH:24]1>>[CH2:1]([C:2]([O:3][C:4]([CH3:5])([CH3:6])[CH3:7])=[O:8])[NH:23][CH2:22][CH2:21][c:20]1[cH:19][cH:18][cH:17][c:16]([C:14]([O:13][C:10]([CH3:9])([CH3:11])[CH3:12])=[O:15])[cH:24]1,[CH3:9][C:10]([CH3:11])([CH3:12])[O:13][C:14](=[O:15])[c:16]1[cH:17][cH:18][cH:19][c:20]([CH2:21][CH2:22][NH2:23])[cH:24]1.[Br:101][CH2:1][C:2]([O:3][C:4]([CH3:5])([CH3:6])[CH3:7])=[O:8]>>[CH2:1]([C:2]([O:3][C:4]([CH3:5])([CH3:6])[CH3:7])=[O:8])[NH:23][CH2:22][CH2:21][c:20]1[cH:19][cH:18][cH:17][c:16]([C:14]([O:13][C:10]([CH3:9])([CH3:11])[CH3:12])=[O:15])[cH:24]1,SN2,"[(23, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CO[C:1]([c:2]1[c:3]([CH2:4][CH2:5][O:6][CH3:7])[n:8][c:9](-[c:10]2[cH:11][cH:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18][cH:19]2)[n:20][c:21]1[CH3:22])=[O:23]>>[CH2:1]([c:2]1[c:3]([CH2:4][CH2:5][O:6][CH3:7])[n:8][c:9](-[c:10]2[cH:11][cH:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18][cH:19]2)[n:20][c:21]1[CH3:22])[OH:23],C[O:101][C:1]([c:2]1[c:3]([CH2:4][CH2:5][O:6][CH3:7])[n:8][c:9](-[c:10]2[cH:11][cH:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18][cH:19]2)[n:20][c:21]1[CH3:22])=[O:23].[AlH4-:301].[AlH4-:302].[H+:303]>>[CH2:1]([c:2]1[c:3]([CH2:4][CH2:5][O:6][CH3:7])[n:8][c:9](-[c:10]2[cH:11][cH:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18][cH:19]2)[n:20][c:21]1[CH3:22])[OH:23],ester_reduction,"[([301, 301.1], 1), ([1, 23], 23), (23, [23, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 23], 23), (23, 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=C(O[OH:1])c1cccc(Cl)c1.[CH2:2]=[CH:3][CH2:4][c:5]1[cH:6][cH:7][c:8]([F:9])[cH:10][cH:11]1>>[O:1]1[CH2:2][CH:3]1[CH2:4][c:5]1[cH:6][cH:7][c:8]([F:9])[cH:10][cH:11]1,[O:202]=[C:201]([O:101][OH:1])c1cccc(Cl)c1.[CH2:2]=[CH:3][CH2:4][c:5]1[cH:6][cH:7][c:8]([F:9])[cH:10][cH:11]1>>[O:1]1[CH2:2][CH:3]1[CH2:4][c:5]1[cH:6][cH:7][c:8]([F:9])[cH:10][cH:11]1,alkene_epoxidation,"[([2, 3], 1), ([1, 101], [101, 201]), ([201, 202], 1.1), ([1.1, 1], 2)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
